US08981104B2
rac-Ethyl 5-{[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
645 ml of anhydrous ethanol and 52 ml of a 4 N solution of hydrogen chloride in dioxane were added to 25.8 g (82.59 mmol) of 5-{[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylic acid, and the mixture was stirred under reflux overnight. The reaction solution was then cooled to room temperature, and first ethyl acetate and then, slowly, saturated aqueous sodium bicarbonate solution were added. Subsequently, the organic phase was separated off, dried over sodium sulphate, filtered and concentrated to dryness. This gave 23.9 g (70.21 mmol, 85% of theory) of the target compound.

reactant | ethanol | 645 ml | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | 5-{[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylic acid | 82.59 mmol, 25.8 g | OC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C(=O)O | C18H20N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | rac-Ethyl 5-{[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | OC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C(=O)OCC | C20H24N2O3
